US07863291B2
To (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride (0.2 g, 0.873 mmol) in N,N-dimethylformamide (20 mL) was added Cs2CO3 (0.711 g, 2.182 mmol) and 3-isothiocyanatoisoquinoline (0.163 g, 0.873 mmol). The suspension was stirred at room temperature for 30 minutes. N,N′-Diisopropylcarbodiimide (0.408 mL, 2.62 mmol) was then added and the mixture was stirred at room temperature for 18 hours. The mixture was concentrated and purified by silica gel chromatography (5-25% [9:1 methanol:ammonium hydroxide]-ethyl acetate) to afford (R)—N-(isoquinolin-3-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (0.16 g, 0.508 mmol, 58% yield) as an off-white solid. M.P. 196-200° C. 1H NMR (400 MHz, MeOD) δ ppm 9.00 (1 H, s), 7.92 (1 H, d), 7.71 (1 H, d), 7.59 (1 H, t), 7.20-7.45 (2 H, m), 3.96 (1 H, d), 3.65 (1 H, d), 3.22 (1 H, d), 3.08 (1 H, d), 2.66-3.00 (4 H, m), 2.05-2.23 (2 H, m), 1.50-1.86 (3 H, m). R.T.=1.37; [M+H]+=309.31.

reactant | (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride | 0.873 mmol, 0.2 g | Cl.Cl.NC[C@@]1(CN2CCC1CC2)O
reactant | Cs2CO3 | 2.182 mmol, 0.711 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-isothiocyanatoisoquinoline | 0.873 mmol, 0.163 g | N(=C=S)C=1N=CC2=CC=CC=C2C1 | C10H6N2S
reactant | N,N′-Diisopropylcarbodiimide | 2.62 mmol, 0.408 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | (R)—N-(isoquinolin-3-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.508 mmol, 0.16 g, 58% yield | C1=NC(=CC2=CC=CC=C12)NC=1O[C@]2(CN3CCC2CC3)CN1 | C18H20N4O
